US07919628B2
To a solution of 0.25 g of 2-methanesulfonyl-5-methyl-pyridine (from the preparation of 5-bromomethyl-2-methanesulfinyl-pyridine, step b)) in 20 mL carbon tetrachloride was added 0.27 g NBS and 4 mg benzoyl peroxide. This mixture was refluxed for 4 hours. The reaction mixture was cooled to room temperature, washed with aqueous sodium hydrogen carbonate solution, dried over sodium sulphate, and concentrated to dryness. Purification by flash chromatography (silica, heptane/ethyl acetate) provided 0.11 g of 5-bromomethyl-2-methanesulfonyl-pyridine.

reactant | 2-methanesulfonyl-5-methyl-pyridine | 0.25 g | CS(=O)(=O)C1=NC=C(C=C1)C | C7H9NO2S
reactant | 5-bromomethyl-2-methanesulfinyl-pyridine | BrCC=1C=CC(=NC1)S(=O)C | C7H8BrNOS
reactant | NBS | 0.27 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 4 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 5-bromomethyl-2-methanesulfonyl-pyridine | 0.11 g | BrCC=1C=CC(=NC1)S(=O)(=O)C | C7H8BrNO2S
